US07276511B2
Synthesis of ethyl 2-(3,4-dichlorophenyl)-2-formylamino-4-pentenoate
Under cooling on ice, formic acid (140 mL) was added to acetic anhydride (255 mL), followed by stirring at 50° C. for 30 minutes. The reaction mixture was cooled with ice. Subsequently, ethyl 2-amino-2-(3,4-dichlorophenyl)-4-pentenoate (298 g) in tetrahydrofuran (1.5 L) was added to the mixture, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure. The residue was neutaralized with saturated aqueous sodium bicarbonate. The resultant mixture was subjected to extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate anhydrate. The solvent was removed under reduced pressure, to thereby give the title compound (334 g). The title compound was used in the next step without further purification.

reactant | formic acid | 140 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 255 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl 2-amino-2-(3,4-dichlorophenyl)-4-pentenoate | 298 g | NC(C(=O)OCC)(CC=C)C1=CC(=C(C=C1)Cl)Cl | C13H15Cl2NO2
solvent | tetrahydrofuran | 1.5 L | O1CCCC1 | C4H8O
product | ethyl 2-(3,4-dichlorophenyl)-2-formylamino-4-pentenoate | 334 g | ClC=1C=C(C=CC1Cl)C(C(=O)OCC)(CC=C)NC=O | C14H15Cl2NO3
